US07977371B2
2-Amino-5-(4-bromophenyl)-4-methylpyrrole-3-carboxamide (Reference compound No. 2-1)
Under ice-cooling, sodium ethoxide (1.4 g, 20 mmol) was added to a suspension of malonamamidine hydrochloride (2.8 g, 20 mmol) in dehydrated ethanol (80 mL), and the mixture was stirred for 30 minutes. Moreover, 2,4′-dibromopropiophenone (2.9 g, 10 mmol) was added thereto, and the whole was stirred overnight at room temperature. After the reaction mixture was concentrated in vacuo, the residue was purified by silica gel column chromatography to give the title reference compound (0.12 g) as a white solid (Yield 4%).

reactant | sodium ethoxide | 20 mmol, 1.4 g | [O-]CC.[Na+]
reactant | malonamamidine hydrochloride | 20 mmol, 2.8 g | C(C(=N)N)C(=O)N.Cl
reactant | 2,4′-dibromopropiophenone | 10 mmol, 2.9 g | BrC(C(=O)C1=CC=C(C=C1)Br)C | C9H8Br2O
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2-Amino-5-(4-bromophenyl)-4-methylpyrrole-3-carboxamide | 0.12 g, Yield 4% | NC=1NC(=C(C1C(=O)N)C)C1=CC=C(C=C1)Br | C12H12BrN3O
